US06833480B2
A solution of 3-methoxy-4-hydroxyphenylacetylene (0.02 mol), 4-methylbenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-3-methoxy-4-hydroxystyryl-4-methylbenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 3-methoxy-4-hydroxyphenylacetylene | 0.02 mol | COC=1C=C(C=CC1O)C#C | C9H8O2
reactant | 4-methylbenzyl mercaptan | 0.02 mol | CC1=CC=C(CS)C=C1 | C8H10S
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-3-methoxy-4-hydroxystyryl-4-methylbenzylsulfide | COC=1C=C(\C=C/C(C2=CC=C(C=C2)C)SC(C2=CC=C(C=C2)C)\C=C/C2=CC(=C(C=C2)O)OC)C=CC1O | C34H34O4S
